US08067445B2
Step 1: [2′-[(Benzoyl-ethyl-amino)-methyl]-4′-(6-ethoxy-pyridin-3-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: [4′-(6-ethoxy-pyridin-3-yl)-2′-ethylaminomethyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester, hydrochloride and benzoyl chloride.

reactant | [4′-(6-ethoxy-pyridin-3-yl)-2′-ethylaminomethyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester, hydrochloride | Cl.C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)CNCC)=O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | [2′-[(Benzoyl-ethyl-amino)-methyl]-4′-(6-ethoxy-pyridin-3-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)CN(CC)C(C1=CC=CC=C1)=O)=O | C34H36N2O5
